US07419984B2
Following the method described in Example 72, 2-(2-amino-6-chloro-pyrimidin-4-yl)-4-chloro-phenol and bromomethyl-cyclohexane provided 4-chloro-6-(5-chloro-2-cyclohexylmethoxy-phenyl)-pyrimidin-2-ylamine (20% yield).

reactant | 2-(2-amino-6-chloro-pyrimidin-4-yl)-4-chloro-phenol | NC1=NC(=CC(=N1)C1=C(C=CC(=C1)Cl)O)Cl | C10H7Cl2N3O
reactant | bromomethyl-cyclohexane | BrCC1CCCCC1 | C7H13Br
product | 4-chloro-6-(5-chloro-2-cyclohexylmethoxy-phenyl)-pyrimidin-2-ylamine | 20% yield | ClC1=NC(=NC(=C1)C1=C(C=CC(=C1)Cl)OCC1CCCCC1)N | C17H19Cl2N3O
